US06924284B2
Hydroxylamine hydrochloride (104 mg, 1.5 mmol) and Na2CO3 (80 mg, 0.75 mmol) were dissolved in 0.5 mL of water. A solution of 4-methylsulfanyl-benzonitrile (223 mg, 1.5 mmol) in 4 mL of methanol was added and the combined solution was stirred at RT for about 48 h. After removal of the solvent, the precipitate was washed with water, filtered and dried to give N-hydroxy-4-methylsulfanyl-benzamidine (203 mg, 75%) which was used without further purification.

reactant | Hydroxylamine hydrochloride | 1.5 mmol, 104 mg | Cl.NO
reactant | Na2CO3 | 0.75 mmol, 80 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methylsulfanyl-benzonitrile | 1.5 mmol, 223 mg | CSC1=CC=C(C#N)C=C1 | C8H7NS
solvent | water | 0.5 mL | O | H2O
solvent | methanol | 4 mL | CO | CH4O
product | N-hydroxy-4-methylsulfanyl-benzamidine | 203 mg, 75% | ONC(C1=CC=C(C=C1)SC)=N | C8H10N2OS
